US04769370
A mixture of 3,4,5-trichlorophenol benzyl ether (7.5 g, 0.026 mole) and sodium methoxide (1.7 g, 0.032 mole) in hexamethylphosphoramide (60 ml) was heated with stirring on a steam bath for 20 hours. The reaction mixture was poured into ice water, extracted into ether, washed with water, brine, and dried over magnesium sulfate. The solvent was evaporated at reduced pressure and the residual oil chromatographed on silica gel (320 g) eluting with ethyl acetate-hexane; 1:4 to obtain 1.1 g of 2,3-dichloro-5-benzyloxyanisole which melted at 79°-81° C.

reactant | 3,4,5-trichlorophenol benzyl ether | 0.026 mole, 7.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)Cl)Cl | C13H9Cl3O
reactant | sodium methoxide | 0.032 mole, 1.7 g | C[O-].[Na+]
solvent | hexamethylphosphoramide | 60 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dichloro-5-benzyloxyanisole | 1.1 g | ClC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)OC | C14H12Cl2O2
